US04374829
A mixture of 0.814 g of L-alanyl-L-proline, 0.206 g of ethyl 2-oxo-4-phenylbutyrate, and 1.6 g of molecular sieves in 10 ml ethanol is hydrogenated at room temperature under 40 pounds pressure with 0.1 g of 10% Pd on carbon as catalyst. After uptake of hydrogen ceases the crude product obtained by filtration and concentration is absorbed on ion exchange resin, (Dowex 50, H+) and eluted with 2% pyridine in water to yield 0.224 g of N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline. HPLC indicates a 55:45 isomer ratio.

reactant | L-alanyl-L-proline | 0.814 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | ethyl 2-oxo-4-phenylbutyrate | 0.206 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 0.1 g | [Pd] | Pd
product | N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline | 0.224 g | C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H28N2O5
